US05521177
4'-[[2-n-Propyl-4-methyl-6-(2-cyano-3,3-dimethyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 1c from 4'-[[2-n-propyl-4-methyl-6-(2-phenoxy-3-cyano-isoureido)-1H-benzimidazol -1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl and dimethylamine in boiling isopropanol.

reactant | 4'-[[2-n-propyl-4-methyl-6-(2-phenoxy-3-cyano-isoureido)-1H-benzimidazol -1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC(OOC2=CC=CC=C2)=NC#N | C33H29N9O2
reactant | dimethylamine | CNC | C2H7N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4'-[[2-n-Propyl-4-methyl-6-(2-cyano-3,3-dimethyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC(=NC#N)N(C)C | C29H30N10
